US07576212B2
4-Hydroxy-6-oxo-3-phenyl-6,7-dihydro-thieno[2,3-b]pyridine-5-carboxylic acid ethyl ester (1.5 g, 4.76 mmol) was refluxed in 2 M sodium hydrxide (50 ml) for 5 hr, filtered while still hot, then cooled to 0° C. and acidified to pH 1 by addition of conc. HCl. The resultant white precipitate was filtered and dried to give 4-hydroxy-3-phenyl-7H-thieno[2,3-b]pyridin-6-one as a white solid. Yield=1.05 g (90.7%).

reactant | 4-Hydroxy-6-oxo-3-phenyl-6,7-dihydro-thieno[2,3-b]pyridine-5-carboxylic acid ethyl ester | 4.76 mmol, 1.5 g | C(C)OC(=O)C1=C(C2=C(NC1=O)SC=C2C2=CC=CC=C2)O | C16H13NO4S
solvent | sodium | 2 M | [Na] | Na
product | 4-hydroxy-3-phenyl-7H-thieno[2,3-b]pyridin-6-one | OC=1C2=C(NC(C1)=O)SC=C2C2=CC=CC=C2 | C13H9NO2S
